US04909829
A stirred mixture of 28.0 g (0.124 mole) of 1-(2-fluoro-4-nitrophenyl)-1,4-dihydro-5H-tetrazol-5-one, 19.3 g (0.140 mole) of potassium carbonate, and 21.8 g (0.140 mole) of 3-fluoropropyl methanesulfonate in 100 mL of dimethylformamide was heated at 60° C. for approximately 18 hours. The reaction mixture was poured into icewater, and the resultant fixture was extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with methylene chloride, to yield 21.5 g of 1-(2-fluoro-4-nitrophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one as a solid, m.p. 86°-89° C.

reactant | 1-(2-fluoro-4-nitrophenyl)-1,4-dihydro-5H-tetrazol-5-one | 0.124 mole, 28.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=NNC1=O | C7H4FN5O3
reactant | potassium carbonate | 0.140 mole, 19.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoropropyl methanesulfonate | 0.140 mole, 21.8 g | CS(=O)(=O)OCCCF | C4H9FO3S
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-(2-fluoro-4-nitrophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one | 21.5 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=NN(C1=O)CCCF | C10H9F2N5O3
